### PR TITLE
Attach the universe polymorphic status to sections.

### PR DESCRIPTION
**Pull request by ppedrot**
The previous implementation allowed to dynamically decide whether a section would be monomorphic or polymorphic at the first definition of a variable or a constraint. Instead of relying on this delayed decision, we set the universe polymorphic property directly at the time of the section definition.

This is **required** for a future kernel implementation of sections.

And inb4 "make sections great again", sections are out of the kernel but part of the TCB, and their implementation is literally bonkers. Anybody claiming they want to mix polymorphic and monomorphic definitions in a section *provided there is no previous variable nor constraint declaration* deserves at best a few strokes of soundness whipping.

See #8090 for a related discussion that withered away.

- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

Overlays:
- https://github.com/coq-ext-lib/coq-ext-lib/pull/65

### CODE REVIEW

File: library/lib.ml [hunk 1]
```diff
@@ -423,38 +423,40 @@ type section_data = {
...
-
-let check_same_poly p vars =
-  let pred = function Context _ -> p = false | Variable {poly} -> p != poly in
-  if List.exists pred vars then
+let check_same_poly p sec =
+  if p != sec.sec_poly then
     user_err Pp.(str  "Cannot mix universe polymorphic and monomorphic declarations in sections.")
 
+let add_section ~poly () =
+  List.iter (fun tab -> check_same_poly poly tab) !sectab;
```
Comment (SkySkimmer) [inline library/lib.ml]: We only need to check the head (if it exists) no?

File: library/lib.ml [hunk 2]
```diff
@@ -423,38 +423,40 @@ type section_data = {
...
-  sectab := empty_section_data :: !sectab
-
-let check_same_poly p vars =
-  let pred = function Context _ -> p = false | Variable {poly} -> p != poly in
-  if List.exists pred vars then
+let check_same_poly p sec =
+  if p != sec.sec_poly then
     user_err Pp.(str  "Cannot mix universe polymorphic and monomorphic declarations in sections.")
 
+let add_section ~poly () =
```
Comment (SkySkimmer) [inline library/lib.ml]: Why keep the `unit` argument?

File: library/lib.ml [hunk 3]
```diff
@@ -423,38 +423,40 @@ type section_data = {
...
+  List.iter (fun tab -> check_same_poly poly tab) !sectab;
+  sectab := empty_section_data ~poly :: !sectab
+
 let add_section_variable ~name ~kind ~poly univs =
   match !sectab with
     | [] -> () (* because (Co-)Fixpoint temporarily uses local vars *)
     | s :: sl ->
-       List.iter (fun tab -> check_same_poly poly tab.sec_entry) !sectab;
+       List.iter (fun tab -> check_same_poly poly tab) !sectab;
        let s = { s with sec_entry = Variable {id=name;kind;poly;univs} :: s.sec_entry } in
```
Comment (SkySkimmer) [inline library/lib.ml]: The `poly` in `Variable` is now redundant.

File: vernac/vernacentries.ml [hunk 4]
```diff
@@ -1013,9 +1013,9 @@ let vernac_include l =
 
 (* Sections *)
 
-let vernac_begin_section ({v=id} as lid) =
+let vernac_begin_section ~poly ({v=id} as lid) =
   Dumpglob.dump_definition lid true "sec";
-  Lib.open_section id
+  Lib.open_section ~poly id
```
Comment (SkySkimmer) [inline vernac/vernacentries.ml]: I feel like we should also do `Local Set ~poly` so that we don't have to repeat it inside the section.

File: library/lib.ml [hunk 5]
```diff
@@ -419,38 +419,53 @@ type secentry =
...
 
-let sectab =
-  Summary.ref ([] : (secentry list * Opaqueproof.work_list * abstr_list) list)
-    ~name:"section-context"
+type section_data = {
+  sec_entry : secentry list;
+  sec_workl : Opaqueproof.work_list;
+  sec_abstr : abstr_list;
+  sec_poly  : bool;
+}
```
Comment (ejgallego) [inline library/lib.ml]: A note on style, an alternative is to define a module `SectionData` and have `SectionData.t` plus unqualified record names. This tends to work better for example when passing `poly` to other parts of the system.

File: library/lib.ml (hunk 2 above)
Comment (ppedrot) [reply library/lib.ml]: This makes explicit the side-effect, and I don't like named arguments for effectful functions as you can move them around, which is error-prone to know whether you're actually performing the right thing.

File: library/lib.ml (hunk 5 above)
Comment (SkySkimmer) [reply library/lib.ml]: As section_data is not exported we could also just go with unqualified fields.

File: test-suite/bugs/closed/bug_4816.v [hunk 6]
```diff
@@ -1,16 +1,19 @@
+#[universes(polymorphic)]
```
Comment (ejgallego) [inline test-suite/bugs/closed/bug_4816.v]: Indeed maybe we should support:
```
Polymorphic Section.

  Universes A B.
```
at least until we deprecate `Polymorphic Definition` etc... Repeating the polymorphic in the univ declaration does indeed seem very redundant to me.

Comment (ppedrot) [reply test-suite/bugs/closed/bug_4816.v]: This is a pretty contrived example. I expect most people in the wild to actually `Set Universe Polymorphism` once and for all. Let's wait for the CI.

File: library/lib.ml (hunk 3 above)
Comment (ppedrot) [reply library/lib.ml]: Will remove.

File: vernac/vernacentries.ml (hunk 4 above)
Comment (ppedrot) [reply vernac/vernacentries.ml]: See the answer to @ejgallego below.

File: library/lib.ml (hunk 1 above)
Comment (ppedrot) [reply library/lib.ml]: I guess so. In that case, we could even set the boolean in the global data structure instead.

File: library/lib.ml (hunk 5 above)
Comment (ppedrot) [reply library/lib.ml]: I agree when the type is exported, but here it's internal, so the actual style doesn't matter much.

File: test-suite/bugs/closed/bug_4816.v (hunk 6 above)
Comment (ejgallego) [reply test-suite/bugs/closed/bug_4816.v]: Indeed good point.

**Comment by ppedrot** [comment]
So, in the end it doesn't look like the actual users of universe polymorphism rely on the current behaviour. Only quickchick and ci-cross-crypto are broken. I'll submit overlays.

**Comment by ppedrot** [comment]
I stumbled upon a fancy behaviour in ExtLib: it's possible to generate monomorphic constants in polymorphic mode, due to scheme creation. While I was aware of that, I never though it could wreak havoc with the section mechanism. Here is a reduced example:
```
Set Printing Universes.
Set Primitive Projections.
Set Universe Polymorphism.

Section pair.
  Polymorphic Universes i j.

  Polymorphic Record pprod : Type@{max (i, j)} := ppair
  { pfst : unit }.

End pair.

Section equality.

  Lemma eq_pair_rw
  : forall (a b : unit) (pf : (ppair a) = (ppair b)),
    exists (pf' : a = b),
      pf = match pf' with
           | eq_refl => eq_refl
           end.
  Proof.
    clear.
    intros.
    exists (f_equal pfst pf).
    change (pf =
            match
              @f_equal pprod unit pfst (ppair a) (ppair b) pf in (_ = t)
              return ((ppair a) = (ppair t))
            with
            | eq_refl => @eq_refl pprod (ppair a)
            end).
    generalize dependent (ppair a).
    intros; subst. (** This defines a monomorphic scheme *)
    reflexivity.
  Defined.
```

**Comment by gares** [comment]
I like the change. As I wrote in another PR that I'm too lazy to find, `~poly` is a bad name (and most agreed, including Matthieu). Here you are adding many *new* occurrences. Could you please use `~univpoly` and leave system F alone?

**Comment by ppedrot** [comment]
Many is a tad exaggerated, that's only one new exported occurrence, in `Lib.open_section`. Yet, I actually thought about calling the argument `univpoly` after the mentioned discussion, but then it is not uniform w.r.t. all the other exported functions of the `Lib` module. Should I perform the change nonetheless?

File: test-suite/bugs/closed/bug_4816.v (hunk 6 above)
Comment (SkySkimmer) [reply test-suite/bugs/closed/bug_4816.v]: I think sections are a reasonable mechanism to have locally set options, even if it's rarely used.

Comment (SkySkimmer) [reply test-suite/bugs/closed/bug_4816.v]: Indeed it did come up in the overlyas.

**Comment by gares** [comment]
I meant that is not like turning `poly` into `~poly` and in the other PR. Here you are threading around a new argument labelled `~poly`, these are genuinely new occurrences of "poly" to me.

On one hand I'm sympathetic to not making the change (after all you are just consistent), and I understand my request is boring to implement. But if never start using a good name for this flag... we will never finish. So I guess we should discuss that briefly, and eventually agree on a "whitespace linter like" policy for `poly` (you touch = you fix).

**Comment by SkySkimmer** [comment]
>On one hand I'm sympathetic to not making the change (after all you are just consistent), and I understand my request is boring to implement. But if never start using a good name for this flag... we will never finish. So I guess we should discuss that briefly, and eventually agree on a "whitespace linter like" policy for poly (you touch = you fix).

Why not make a PR changing all of them at once? At least the ones which are named arguments.

**Comment by gares** [comment]
> Why not make a PR changing all of them at once? At least the ones which are named arguments.

I'm fine with it, but lovers of git history digging may find it a bit disturbing

**Comment by gares** [comment]
(it is like for white spaces and tabs, why don't we do lint every file?)

**Comment by ejgallego** [comment]
At least whitespace and tabs are ignored by diff / history tools. They are also a real problem in that they make indentation work bad.

IMHO if we start to go naming nitpicking in a codebase with 100s of authors and more than 200.000 likes of code we will just all end mad.

**Comment by ppedrot** [comment]
Judging from the conversation, I think it's better to dedicate a PR to the renaming of the poly flag instead of doing it piecewise and face inconsistent naming. I've added the changelog, so this should be ready. Note that the documentation doesn't need to be affected because the [one in master](https://coq.inria.fr/refman/addendum/universe-polymorphism.html?highlight=universe%20polymorphism#explicit-universes) actually describes the behaviour implemented by this PR, i.e.

> One cannot mix polymorphic and monomorphic declarations in the same section.

**Comment by SkySkimmer** [comment]
I still want `Polymorphic Section S. Universe i.` to work.

**Review by Zimmi48 — COMMENTED** [review]
Changelog is OK but maybe you should make it explicit in there that this makes the implementation behave as was documented already.

**Comment by ppedrot** [comment]
@SkySkimmer and @Zimmi48 implemented both requests.

File: library/lib.ml (hunk 1 above)
Comment (ppedrot) [reply library/lib.ml]: I am not changing this, because it'd be possible to allow polymorphic sections inside monomorphic one in a logically meaningful way. I might implement it that way in the kernel, so let's leave open the ability to do that here as well.

Comment (mattam82) [reply library/lib.ml]: +1 that’s a use case I have, defining a polymorphic thing, closing the section and using a specific instance

**Comment by SkySkimmer** [comment]
Test suite errors

File: doc/changelog/02-specification-language/10441-static-poly-section.rst [hunk 7]
```diff
@@ -0,0 +1,11 @@
+- The universe polymorphism setting now applies from the opening of a section.
+  In particular, it is not possible anymore to mix polymorphic and monomorphic
+  definitions in a section when there are no variables nor universe constraints
+  defined in this section. This makes the behaviour consistent with the
+  documentation. (`#10441 <https://github.com/coq/coq/pull/10441>`_,
+  by Pierre-Marie Pédrot)
+
+- The Section vernacular command now accepts the "universes" attribute. In
```
Comment (Zimmi48) [inline doc/changelog/02-specification-language/10441-static-poly-section.rst]:
```suggestion
- The :cmd:`Section` vernacular command now accepts the "universes" attribute. In
```

Also, could you document this somewhere (else) than just the changelog?

Comment (ppedrot) [reply doc/changelog/02-specification-language/10441-static-poly-section.rst]: Hmm, the `universes` attribute is not even documented. There is a mention of the deprecated `(mono|poly)morphic` attributes in their respective chapter, but nothing more. Should this go into the universe poymorphism chapter?

Comment (ppedrot) [reply doc/changelog/02-specification-language/10441-static-poly-section.rst]: Is it me or there isn't any Sphinx command to specify an attribute, similar to what `.. flag::` does?

**Comment by ppedrot** [comment]
@Zimmi48 documentation added in the universe polymorphism chapter.

**Comment by Zimmi48** [comment]
> Is it me or there isn't any Sphinx command to specify an attribute, similar to what `.. flag::` does?

There is none and that's a good remark. The documentation of attributes was not really thought through unfortunately.

**Review by Zimmi48 — APPROVED** [review]

**Comment by Zimmi48** [comment]
> > Is it me or there isn't any Sphinx command to specify an attribute, similar to what `.. flag::` does?
> 
> There is none and that's a good remark. The documentation of attributes was not really thought through unfortunately.

Please open an issue about this.

**Comment by ppedrot** [comment]
@Zimmi48 see #10514.

Who is assigning? @SkySkimmer? This is basically ready.

**Comment by ppedrot** [comment]
@SkySkimmer ping, ready for merge AFAICT.

**Review by SkySkimmer — APPROVED** [review]
